US05296344
Ethanol (3.6 g) and tetrahydrofuran (10 ml) were dropwise added to a solution of 2-chlorosulfonylbutyl chloride (14.4 g) and tetrahydrofuran (21 ml) while cooling with ice. After stirring at room temperature for 1 hour, ethyl p-aminobenzoylacetate (13.3 g), N,N-dimethylacetamide (33 ml) and pyridine (12.2 g) were added thereto, and the mixture was heated for refluxing for 30 minutes. 0.5 N hydrochloric acid (30 ml) was added to the reaction solution, and the mixture was extracted with ethyl acetate (120 ml). The extracted solution was washed with a sodium chloride aqueous solution (120 ml), then dried over magnesium sulfate, and concentrated. An oily product, ethyl p-(1-ethoxycarbonylpropanesulfonamido)benzoylacetate was quantitatively obtained.

reactant | Ethanol | 3.6 g | C(C)O | C2H6O
reactant | 2-chlorosulfonylbutyl chloride | 14.4 g | ClS(=O)(=O)C(CCl)CC | C4H8Cl2O2S
reactant | ethyl p-aminobenzoylacetate | 13.3 g | NC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H13NO3
reactant | hydrochloric acid | 0.5 N, 30 ml | Cl | ClH
reactant | N,N-dimethylacetamide | 33 ml | CN(C(C)=O)C | C4H9NO
solvent | pyridine | 12.2 g | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl p-(1-ethoxycarbonylpropanesulfonamido)benzoylacetate | C(C)OC(=O)C(CC)S(=O)(=O)NC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C17H23NO7S
